US07482456B2
Step 1: 1-(2′-bromo-1,1′-biphenyl-4-yl)ethanone
Prepared according to the general procedure Coupling-1 using 4-acetylbenzeneboronic acid and 1,2-dibromobenzene as starting material. Flash chromatography (Hex:EtOAc; 95:5) afforded the title compound.

reactant | 4-acetylbenzeneboronic acid | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
reactant | 1,2-dibromobenzene | BrC1=C(C=CC=C1)Br | C6H4Br2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(2′-bromo-1,1′-biphenyl-4-yl)ethanone | BrC1=C(C=CC=C1)C1=CC=C(C=C1)C(C)=O | C14H11BrO
